US04337256
1-Cyclohexyl-5-chloro-3,4-dihydroisoquinoline and diphenyl disulfide were reacted in the same way as in step (c) of Example 13 to afford 1-cyclohexyl-5-chloroisoquinoline as an oil.

reactant | 1-Cyclohexyl-5-chloro-3,4-dihydroisoquinoline | C1(CCCCC1)C1=NCCC2=C(C=CC=C12)Cl | C15H18ClN
reactant | diphenyl disulfide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | 1-cyclohexyl-5-chloroisoquinoline | C1(CCCCC1)C1=NC=CC2=C(C=CC=C12)Cl | C15H16ClN
